US05084463
Step 1) Preparation of 2-(Methylaminomethyl)quinoline
2-Chloromethylquinoline hydrochloride (3.00 g, 14.01 mmol) was suspended in aqueous methylamine (40 mL, 40 wt % in H2O) at 10° C. under a N2 atmosphere. After 20 minutes, the reaction mixture was warmed to room temperature and stirred for 3 hours. The mixture was diluted with water and extracted with dichloromethane. The organic extracts were dried (MgSO4) and concentrated to afford 2.22 g (92%) of pure product as a brown oil.

reactant | 2-Chloromethylquinoline hydrochloride | 14.01 mmol, 3.00 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | methylamine | 40 mL | CN | CH5N
solvent | water | O | H2O
product | 2-(Methylaminomethyl)quinoline | 2.22 g, 92% | CNCC1=NC2=CC=CC=C2C=C1 | C11H12N2
